US08278345B2
Compound 372: 1-(1H-Benzoimidazol-5-yl)-4-cyclohexanecarbonyl-5-(3,4-dichloro-phenyl)-3-hydroxy-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 3,4 Dichlorobenzaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 4-Cyclohexyl-2,4-dioxo-butyric acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 3,4 Dichlorobenzaldehyde | 1 mmol | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 4-Cyclohexyl-2,4-dioxo-butyric acid ethyl ester | 1 mmol | C(C)OC(C(CC(=O)C1CCCCC1)=O)=O | C12H18O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(1H-Benzoimidazol-5-yl)-4-cyclohexanecarbonyl-5-(3,4-dichloro-phenyl)-3-hydroxy-1,5-dihydro-pyrrol-2-one | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C2=CC(=C(C=C2)Cl)Cl)C(=O)C2CCCCC2)O)=O | C24H21Cl2N3O3
